US08859591B2
A mixture of 2-fluoro-5-iodopyridine (368.3 mg, 1.652 mmol), 4-phenyl-1H-pyrazole (238.2 mg, 1.652 mmol), and potassium carbonate (457 mg, 3.30 mmol) in N,N-dimethylformamide (3.30 mL) was heated to 85° C. for 21 hours. The reaction was then concentrated and the crude residue diluted with water and ethyl acetate. The layers were separated and the aqueous was extracted two more times with ethyl acetate. The combined organics were dried over magnesium sulfate, filtered, and concentrated to give 5-iodo-2-(4-phenyl-1H-pyrazol-1-yl)pyridine (537.2 mg, 94%) as a white solid. 1H NMR (400 MHz, CDCl3, δ): 8.76 (s, 1H), 8.61 (d, J=1.8 Hz, 1H), 8.09 (dd, J=8.7, 2.2 Hz, 1H), 8.01 (s, 1H), 7.82 (d, J=8.6 Hz, 1H), 7.55-7.61 (m, 2H), 7.36-7.43 (m, 2H), 7.25-7.31 (m, 1H). MS (M+1): 348.0.

reactant | 2-fluoro-5-iodopyridine | 1.652 mmol, 368.3 mg | FC1=NC=C(C=C1)I | C5H3FIN
reactant | 4-phenyl-1H-pyrazole | 1.652 mmol, 238.2 mg | C1(=CC=CC=C1)C=1C=NNC1 | C9H8N2
reactant | potassium carbonate | 3.30 mmol, 457 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3.30 mL | CN(C=O)C | C3H7NO
product | 5-iodo-2-(4-phenyl-1H-pyrazol-1-yl)pyridine | 537.2 mg, 94% | IC=1C=CC(=NC1)N1N=CC(=C1)C1=CC=CC=C1 | C14H10IN3
